data/rdb19/train.csv
rxn,smiles,ea
795,[C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])[H:15])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37],29.091412293957543
785,[C:19]([C:20]([C:21]([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7][H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[C:23](=[O:24])[O:25][C:26]([H:35])([H:36])[H:37],37.44065536285052
2322,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[C:10]([H:17])[H:18])[C:11](=[O:12])[O:13][H:19])([H:14])([H:15])[H:16]>>[C:1]([C:2]([H:3])([H:4])[O:13][H:19])([H:5])([H:6])[H:7].[C:8]([C:9](=[C:10]([H:17])[H:18])[C:11]=[O:12])([H:14])([H:15])[H:16],51.02872548409505
2183,[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[O:21]([O:22])[H:23]>>[C:1]([C:2]([H:10])[H:11])([H:7])([H:8])[H:9].[C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]([H:18])([H:19])[H:20])([H:16])[H:17])([H:12])[O:22][O:21][H:23],67.29896116623422
1125,[C:14](=[C:15]([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:15]([C:14]([H:19])[H:20])([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21],34.2634402004187
1597,[C:15]([C:16]([C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:15]([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])([H:5])[C:16]([C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],60.020363332820125
82,[C:12]([C:13]([C:14](=[C:15]([H:22])[H:23])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([C:14](=[C:15][H:23])[H:21])([H:19])[H:20])([H:16])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:22])([H:6])([H:7])[H:8],33.6546410197916
5261,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21](=[C:22]([N:23]([C:24](=[O:25])[H:30])[H:29])[H:28])([H:26])[H:27]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])([H:12])([H:13])[H:14].[H:15][C:24]([N:23]([C:22](=[C:21]([H:26])[H:27])[H:28])[H:29])([O:25])[H:30],44.69697724113939
2155,[C:11]([C:12]([C:13]([H:14])[O:15][C:16](=[O:17])[C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[O:15][C:16](=[O:17])[C:18]([H:24])([H:25])[H:26])[H:22])([H:19])([H:20])[H:21].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[H:23])[H:8])([H:6])[H:7],29.420482755056582
4709,[C:1]([H:2])([H:3])[H:4].[C:5]([C:6]([C:7]([C:8]([H:17])([H:18])[H:19])([O:9][C:10]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13]>>[C:1]([H:2])([H:3])([H:4])[C:8]([H:17])([H:18])[H:19].[C:5]([C:6]([C:7]([O:9][C:10]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13],53.94857740125735
4720,[C:1]([H:2])([H:3])[H:4].[C:5]([O:6][C:7](=[C:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([H:2])([H:3])([H:4])[C:5]([H:9])([H:10])[H:11].[O:6][C:7](=[C:8]([H:13])[H:14])[H:12],48.33204400664545
567,[C:3]([C:4]([C:5]([C:6]([H:17])([H:18])[H:19])([O:7][C:8](=[O:9])[C:10]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[O:1][H:2]>>[C:8](=[O:9])[C:10]([H:20])([H:21])[H:22].[O:1]([H:2])[O:7][C:5]([C:4]([C:3]([H:11])([H:12])[H:13])([H:14])[H:15])([C:6]([H:17])([H:18])[H:19])[H:16],76.92932884948095
